US07687491B2
(20d) 1-[(4-Ethyl-5-{5-[3-fluoro-4-(3-fluorophenoxy)phenyl]-1,2,4-oxadiazol-3-yl}-2-thienyl)methyl]azetidine-3-carboxylic acid
The title compound (0.11 g) was synthesized in a yield of 83% as a white crystalline solid by conducting the reaction similar to that mentioned in Example 3 (3e) using methyl 1-[(4-ethyl-5-{5-[3-fluoro-4-(3-fluorophenoxy)phenyl]-1,2,4-oxadiazol-3-yl}-2-thienyl)methyl]azetidine-3-carboxylate (0.14 g, 0.27 mmol) that was obtained in Example 20 (20c) and a 1 N aqueous solution of sodium hydroxide (0.81 mL, 0.81 mmol).

reactant | methyl 1-[(4-ethyl-5-{5-[3-fluoro-4-(3-fluorophenoxy)phenyl]-1,2,4-oxadiazol-3-yl}-2-thienyl)methyl]azetidine-3-carboxylate | 0.27 mmol, 0.14 g | C(C)C=1C=C(SC1C1=NOC(=N1)C1=CC(=C(C=C1)OC1=CC(=CC=C1)F)F)CN1CC(C1)C(=O)OC | C26H23F2N3O4S
reactant | sodium hydroxide | 0.81 mmol, 0.81 mL | [OH-].[Na+]
product | 1-[(4-Ethyl-5-{5-[3-fluoro-4-(3-fluorophenoxy)phenyl]-1,2,4-oxadiazol-3-yl}-2-thienyl)methyl]azetidine-3-carboxylic acid | 0.11 g, yield of 83% | C(C)C=1C=C(SC1C1=NOC(=N1)C1=CC(=C(C=C1)OC1=CC(=CC=C1)F)F)CN1CC(C1)C(=O)O | C25H21F2N3O4S
